US06720338B2
methyl 4-(2,5-dioxopyrrolidin-1-yl)benzoate
The desired product was prepared by substituting methyl 4-aminobenzoate and succinic anhydride for ethyl 4-aminobenzoate and 3,3-dimethylglutaric anhydride, respectively, in Example 119A. MS (DCI) m/e 251 (M+NH4)+.

reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 3,3-dimethylglutaric anhydride | CC1(CC(=O)OC(C1)=O)C | C7H10O3
product | methyl 4-(2,5-dioxopyrrolidin-1-yl)benzoate | O=C1N(C(CC1)=O)C1=CC=C(C(=O)OC)C=C1 | C12H11NO4
